US04958029
N-benzyl-5,6-dihydroxy-N-methylisoindolinium bromide
To 1.0 g (3.13 mmol) of N-benzyl-5,6-dimethoxy-N-methylisoindolinium chloride, 10 ml of 48% hydrobromic acid was added, and the mixture was heated at reflux for 3 hours at an external temperature of from 110° to 130° C. The reaction solution was evaporated to dryness under reduced pressure, and the crystal residue was washed with 10 ml of acetone to obtain 1.05 g of the above identified compound.

reactant | N-benzyl-5,6-dimethoxy-N-methylisoindolinium chloride | 3.13 mmol, 1.0 g | [Cl-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)OC)OC)C
reactant | hydrobromic acid | 10 ml | Br | BrH
product | N-benzyl-5,6-dihydroxy-N-methylisoindolinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)O)O)C | InChI=1S/C16H17NO2.BrH/c1-17(9-12-5-3-2-4-6-12)10-13-7-15(18)16(19)8-14(13)11-17;/h2-8H,9-11H2,1H3,(H-,18,19);1H
